US09216988B2
To a solution of 4-(4-acetylpiperazin-1-yl)benzaldehyde (150 mg, 0.64 mmol) and cyclobutylamine (75 mg, 0.77 mmol) in dichloroethane (1.5 mL) was added sodium triacetoxyborohydride (216 mg, 0.96 mmol), followed by acetic acid (0.055 mL, 0.96 mmol) and the reaction was stirred at ambient temperature for 16 hours. The reaction was then quenched with 1 N aqueous NaOH, diluted with dichloromethane and the dichloromethane layer was isolated with a phase-separator cartridge and concentrated to give 1-(4-(4-((cyclobutylamino)methyl)phenyl)piperazin-1-yl)ethanone (185 mg). The product was used without purification. LCMS (m/z) ES+ 288 [M+1]+.

reactant | 4-(4-acetylpiperazin-1-yl)benzaldehyde | 0.64 mmol, 150 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C13H16N2O2
reactant | cyclobutylamine | 0.77 mmol, 75 mg | C1(CCC1)N | C4H9N
reactant | sodium triacetoxyborohydride | 0.96 mmol, 216 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.96 mmol, 0.055 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
product | 1-(4-(4-((cyclobutylamino)methyl)phenyl)piperazin-1-yl)ethanone | 185 mg | C1(CCC1)NCC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C17H25N3O
